US05821246
Using an analogous procedure to that described in the first paragraph of the portion of Example 8 which is concerned with the preparation of starting materials, 3-chloro-4-fluoronitrobenzene was reacted with 2-thiophenethiol to give 2-chloro-4-nitrophenyl 2-thienyl sulphide in 32% yield.

reactant | 3-chloro-4-fluoronitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | 2-thiophenethiol | S1C(=CC=C1)S | C4H4S2
product | 2-chloro-4-nitrophenyl 2-thienyl sulphide | 32% yield | S1C(=CC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C10H6ClNO2S2
